US05393771
B. (3S-trans)-[2-[(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-pyran-4yl)amino]phenyl]carbamic acid, ethyl ester
The reaction mixture containing (1aS-cis)-1a,7b-dihydro-2,2-dimethyl-2H-oxireno-[c][1]benzopyran-6-carbonitrile, from example 2, part A (1.0 g, 5.0 mmol), 2-[(ethoxycarbonyl)amino]aniline, compound of example 1, part B (900 mg, 5.0 mmol) and magnesium perchlorate (1.12 g, 5.0 mmol) in acetonitrile (5.0 mL) was stirred under argon at room temperature for 48 hours. The reaction mixture was diluted with ethyl acetate and washed with water, saturated sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated to give a colorless foam which was purified by flash chromatography (25% ethyl acetate in hexanes) to yield the title product as an amorphous solid (1.76 g, 92.8%) (shrinks at 84° C.). [a]D =+21° (c=1.1%, MeOH). Microanalysis calculated for C21H23N3O4 : C,66.13; H, 6.08; N,11.02. Found: C, 66.11 ; H, 6.15; N, 10.78.

reactant | (1aS-cis)-1a,7b-dihydro-2,2-dimethyl-2H-oxireno-[c][1]benzopyran-6-carbonitrile | CC1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)C#N)C | C12H11NO2
reactant | 2-[(ethoxycarbonyl)amino]aniline | C(C)OC(=O)NC1=C(N)C=CC=C1 | C9H12N2O2
reactant | magnesium perchlorate | 5.0 mmol, 1.12 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S-trans)-[2-[(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-pyran-4yl)amino]phenyl]carbamic acid, ethyl ester | 1.76 g, 92.8% | C(#N)C1=C[C@H]([C@@H](C(O1)(C)C)O)NC1=C(C=CC=C1)NC(OCC)=O | C17H21N3O4
